US07452892B2
Preparation of 1-(7,8-bis(4-chlorophenyl)-2-methyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide
The title compound was prepared by coupling 1-(7,8-bis(4-chlorophenyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide with iodomethane in a manner analogous to that in which 1-(7,8-bis(4-chlorophenyl)-2-ethyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide was prepared. HPLC/MS: retention time 3.318 min, [M+H]30 =512.

reactant | 1-(7,8-bis(4-chlorophenyl)-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1CC(C1)(C(=O)N)NCC)C(NN2)=O)C2=CC=C(C=C2)Cl | C23H21Cl2N7O2
reactant | iodomethane | IC | CH3I
reactant | 1-(7,8-bis(4-chlorophenyl)-2-ethyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1CC(C1)(C(=O)N)NCC)C(N(N2)CC)=O)C2=CC=C(C=C2)Cl | C25H25Cl2N7O2
product | 1-(7,8-bis(4-chlorophenyl)-2-methyl-3-oxo-2,3-dihydro-[1,2,4]triazolo[4,3-c]pyrimidin-5-yl)-3-(ethylamino)azetidine-3-carboxamide | ClC1=CC=C(C=C1)C1=C(C=2N(C(=N1)N1CC(C1)(C(=O)N)NCC)C(N(N2)C)=O)C2=CC=C(C=C2)Cl | C24H23Cl2N7O2
